US08202858B2
4-[2-(3-Chloro-4-methoxycarbonyl-phenoxy)-acetyl]-piperazine-1-carboxylic Acid Tert-butyl Ester
2-Chloro-4-hydroxy-benzoic acid methyl ester from example E41b (2.0 g, 10.9 mmol) and 4-(2-Bromo-acetyl)-piperazine-1-carboxylic acid tert-butyl ester from Example E41a (3.68 g, 12.0 mmol) in acetonitrile (30 ml) were treated with potassium carbonate (1.6 g, 11.5 mmol), and the mixture heated at reflux 18 h. before the solvents were removed in vacuo. The residue was adsorbed onto silica gel and purified by flash chromatography on silica gel (eluant; 20% EtOAc:80% cyclohexane to 50% EtOAc:50% cyclohexane to 70% EtOAc:30% cyclohexane) to yield the title compound (4.5 g, 100%).

reactant | 2-Chloro-4-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)O)Cl)=O | C8H7ClO3
reactant | 4-(2-Bromo-acetyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CBr)=O | C11H19BrN2O3
reactant | potassium carbonate | 11.5 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-[2-(3-Chloro-4-methoxycarbonyl-phenoxy)-acetyl]-piperazine-1-carboxylic Acid Tert-butyl Ester | 4.5 g, 100% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(COC1=CC(=C(C=C1)C(=O)OC)Cl)=O | C19H25ClN2O6
